US09238640B2
Lithium aluminium hydride (0.142 g, 3.75 mmol) was taken in a dry, three-necked flask, fitted with a reflux condenser. Anhydrous ether (10 mL) was added. A solution of methyl-4-(1H-tetrazol-5-ylmethyl)benzoate (0.654 g, 3.0 mmol) in anhydrous THF (5 mL) was added dropwise. After the addition was complete, the mixture was heated to reflux for 2 hours. Then, the reaction mixture was cooled to 0° C. and quenched by cautious addition of water (10 mL) and 15% sodium hydroxide solution (10 mL). The reaction mixture was stirred for 30 minutes and then allowed to warm to room temperature. The aqueous phase was acidified to pH 4 and left for 2 days. A white precipitate was formed and filtered off, washed with water, and dried under vacuum, to give [4-(1H-tetrazol-5-ylmethyl)-phenyl]-methanol as a white solid. Yield: 0.290 g (51%).

reactant | Lithium aluminium hydride | 3.75 mmol, 0.142 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | methyl-4-(1H-tetrazol-5-ylmethyl)benzoate | 3.0 mmol, 0.654 g | COC(C1=CC=C(C=C1)CC1=NN=NN1)=O | C10H10N4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [4-(1H-tetrazol-5-ylmethyl)-phenyl]-methanol | N1N=NN=C1CC1=CC=C(C=C1)CO | C9H10N4O
